US08491869B2
3-Bromoquinoline (42 mg, 0.2 mmol) and tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate (66 mg, 0.2 mmol) were reacted using General Procedure (A) to afford tert-butyl methyl(4-(quinolin-3-yl)phenyl)carbamate a clear wax (44 mg, 66%). 1H NMR (400 MHz, CDCl3): δ 9.18 (d, J=2.4 Hz, 1H), 8.31 (d, J=2.0 Hz, 1H), 8.15 (m, 1H), 7.89 (m, 1H), 7.73 (m, 1H), 7.68 (m, 2H), 7.59 (m, 1H), 7.42 (m, 2H), 3.3 (s, 3H), 1.50 (s, 9H); MS (ESI): 335 (M+H+).

reactant | 3-Bromoquinoline | 0.2 mmol, 42 mg | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate | 0.2 mmol, 66 mg | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO4
product | tert-butyl methyl(4-(quinolin-3-yl)phenyl)carbamate | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C=1C=NC2=CC=CC=C2C1 | C21H22N2O2
